US07494992B2
(1S,2R,4aS,5R,8R,8aR)-2-{[(acetyloxy)acetyl]oxy}-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-C][2,1]benzoxazine-2-carboxylate
To (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1, 2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 139, 210 mg, 0.4 mmol) and 4-dimethylaminopyridine (65 mg, 0.53 mmol) in dichloromethane (10 ml) was added (acetyloxy)acetic acid (60 mg, 0.51 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (90 mg, 0.58 mmol). The resultant mixture was stirred at room temperature and upon completion was concentrated in vacuo. The crude product was purified by chromatography on a Biotage® 12M column eluting with hexane:ethyl acetate (2:1). The pure fractions were combined and the solvent removed in vacuo to give the title product (150 mg, 61%).

reactant | (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1, 2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.4 mmol, 210 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)O)O | C27H35ClN2O6
reactant | (acetyloxy)acetic acid | 0.51 mmol, 60 mg | C(C)(=O)OCC(=O)O | C4H6O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.58 mmol, 90 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.53 mmol, 65 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5R,8R,8aR)-2-{[(acetyloxy)acetyl]oxy}-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-C][2,1]benzoxazine-2-carboxylate | 150 mg, 61% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)OC(COC(C)=O)=O)O | C31H39ClN2O9
